US05965738
Synthesis of 5-ethyl-2-trifluoroacetylimino-3-(4-bromobenzyl)-1,3,4-thiadiazoline
To a suspension of sodium hydride (4.4 g) in N,N-dimethylformamide (100 ml) was added 5-ethyl-2-trifluoroacetylamino-1,3,4-thiadiazole (24 g) in three portions on ice. After stirring at the same temperature for 30 minutes, to the resulting mixture was added 4-bromobenzyl bromide (25 g), followed by stirring at room temperature for one hour. To the reaction mixture, ethyl acetate (500 ml) was added. The resulting mixture was washed successively with 10% aqueous citric acid solution and water and was dried over anhydrous magnesium sulfate, followed by removal through distillation. The residue so obtained was dispersed in a 2:3 mixed solvent of diisopropyl ether and n-hexane, collected by filtration and then dried, whereby 24.8 g of the title compound was obtained.

reactant | sodium hydride | 4.4 g | [H-].[Na+]
reactant | 5-ethyl-2-trifluoroacetylamino-1,3,4-thiadiazole | 24 g | C(C)C1=NN=C(S1)NC(C(F)(F)F)=O | C6H6F3N3OS
reactant | 4-bromobenzyl bromide | 25 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 5-ethyl-2-trifluoroacetylimino-3-(4-bromobenzyl)-1,3,4-thiadiazoline | 24.8 g | C(C)C1=NN(C(S1)=NC(C(F)(F)F)=O)CC1=CC=C(C=C1)Br | C13H11BrF3N3OS
